** sch_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/top-pll/tb_LC_VCO_FPLL_PEX.sch
**.subckt tb_LC_VCO_FPLL_PEX CLK_OUT
*.opin CLK_OUT
x1 CLK_IN UP VDD GND CLK_FB DN PHASE_FREQ_DET_PEX
x2 UP VDD VCP VBGR GND DN CHARGE_PUMP_PEX
x3 VCTRL VCP GND LOOP_FILTER_PEX
x4 OUTp OUTn CLK_OUT VCTRL VBGR GND VDD LC_VCO_NOIND
xind OUTn OUTp 4nH_INDUCTOR
V1 VDD GND 1.2
VBGR VBGR GND 0.6
Vfref CLK_IN GND 0 pulse(0 1.2 0n 1n 1n 50n 100n)
**** begin user architecture code



*****************************************************
* Closed-loop PLL testbench (post-layout, extracted blocks)
* VBGR is an ideal source: the bandgap is a test block, not part of the tapeout.
*****************************************************
.option temp=27
.param VDD=1.2
.option rshunt=1.0e12
.include 4nH_INDUCTOR.spice
.include ../simulations/stimuli_test.cir
* start-up kick: a noise-free run can stay at the unstable equilibrium at low VCTRL
.ic v(OUTp)=0.4
* extracted (Magic RC) netlists of the blocks; the inductor is the EM model above
.include ../pex/PHASE_FREQ_DET__PHASE_FREQ_DET/magic_RC/PHASE_FREQ_DET.pex.spice
.include ../pex/CHARGE_PUMP_V2__CHARGE_PUMP/magic_RC/CHARGE_PUMP.pex.spice
.include ../pex/LOOP_FILTER__LOOP_FILTER/magic_RC/LOOP_FILTER.pex.spice
.include ../pex/LC_VCO_NOIND__LC_VCO_NOIND/magic_RC/LC_VCO_NOIND.pex_sim.spice
* Divider: compiled behavioural model of the DSM + N-divider (dsm_and_freq_divider.so),
* verified separately at transistor level (tb_DSM_N_FREQ_DIV, tb_DSM_N_FREQ_DIV_PEX).
adut [ dn1 dn2 dn3 dn4 dn5 ] [ dn6 ] null dut
.model dut d_cosim simulation=../simulations/dsm_and_freq_divider.so
A1 [ CLK_OUT ] [ dn1 ] adc1
A2 [ rst ] [ dn2 ] adc1
A3 [ sclk ] [ dn3 ] adc1
A4 [ sdata ] [ dn4 ] adc1
A5 [ en ] [ dn5 ] adc1
* ADC threshold: 0.6 V = mid-swing of the extracted VCO output (measured -0.03 V to 1.22 V)
.model adc1 adc_bridge in_low=0.6 in_high=0.6
A6 [ dn6 ] [ CLK_FB ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
* gear method is stable for long oscillator runs
.options reltol=1e-3 abstol=1e-9 vntol=1e-6 method=gear
.control
  * save only the low-frequency loop signals plus the output clock
  save v(vctrl) v(up) v(dn) v(clk_fb) v(clk_out) v(clk_in) v(vcp) v1#branch
  tran 10p 40u
  meas tran idd avg i(V1) from=20u to=40u
  remzerovec
  write tb_LC_VCO_FPLL_PEX_40u.raw v(vctrl) v(up) v(dn) v(clk_fb) v(clk_out) v(clk_in) v(vcp)
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.global VDD GND


**** end user architecture code
**.ends
.GLOBAL VDD
.GLOBAL GND
.GLOBAL VBGR
.end
