** sch_path: /home/designer/shared/LC_VCO_FPLL/xschem/LC_VCO.sch
.subckt LC_VCO VDD VCTRL GND FOUT VBGR
*.PININFO FOUT:O VCTRL:I VBGR:I VDD:B GND:B
x1 OUTn OUTp 4nH_INDUCTOR
MM5 Vx Vgs GND SUB! sg13_lv_nmos w=384u l=1u ng=48
MM4 OUTp OUTn VDD NW sg13_lv_pmos w=36u l=0.13u ng=5
MM3 OUTn OUTp VDD NW sg13_lv_pmos w=36u l=0.13u ng=5
MM2 OUTp OUTn Vx SUB! sg13_lv_nmos w=21.99u l=0.13u ng=3
MM1 OUTn OUTp Vx SUB! sg13_lv_nmos w=21.99u l=0.13u ng=3
MM6 Vgs Vgs GND SUB! sg13_lv_nmos w=64u l=1u ng=8
CC1 OUTn OUTp sub! rfcmim w=21.9e-6 l=21.9e-6 wfeed=10.0e-6
CC3 OUTp VCTRL OUTn sub! sg13_hv_svaricap w=9.74u l=0.8u Nx=7
CC2 OUTp VCTRL OUTn sub! sg13_hv_svaricap w=9.74u l=0.8u Nx=7
MM7 Vgs VBGR VDD NWa sg13_lv_pmos w=38u l=1u ng=5
MM8 FOUT OUTp VDD NW sg13_lv_pmos w=15u l=0.13u ng=10
MM9 FOUT OUTp GND SUB! sg13_lv_nmos w=1.5u l=0.13u ng=1
MM10 net1 OUTn VDD NW sg13_lv_pmos w=15u l=0.13u ng=10
MM11 net1 OUTn GND SUB! sg13_lv_nmos w=1.5u l=0.13u ng=1
RR1 VDD NW ntap1 A=9.294e-12 P=6.196e-05
RR2 VDD NW ntap1 A=9.294e-12 P=6.196e-05
RR3 GND sub! ptap1 A=2.8626e-11 P=0.00019084
RR4 GND SUB! ptap1 A=8.232e-12 P=5.488e-05
RR5 GND SUB! ptap1 A=8.232e-12 P=5.488e-05
RR6 VDD NW ntap1 A=7.404e-12 P=4.936e-05
RR7 VDD NW ntap1 A=7.404e-12 P=4.936e-05
RR8 GND SUB! ptap1 A=4.122e-12 P=2.748e-05
RR9 GND SUB! ptap1 A=4.122e-12 P=2.748e-05
RR10 GND SUB! ptap1 A=1.434e-11 P=9.56e-05
RR11 GND SUB! ptap1 A=4.1796e-11 P=0.00027864
RR12 VDD NWa ntap1 A=1.2144e-11 P=8.096e-05
**** begin user architecture code


.subckt 4nH_INDUCTOR 1 2
* LVS black-box stub only
* Full model is available in 4nH_INDUCTOR.spice
.ends


**** end user architecture code
.ends
.GLOBAL GND
.GLOBAL VDD
